US03983113
Benzhydryl 3-formyl-7β-(thiophen-2-yl-acetamido)-ceph-2-em-4-carboxylate
In this preparation 31 g. of dried chromium trioxide is added to a mixture of 51 g. of dry pyridine and 800 ml. of dry methylene chloride and stirred at 15°C under nitrogen for 20 minutes. 26 Grams of benzhydryl 3-hydroxymethyl-7β-(thiophen-2-yl-acetamido)-ceph-2-em-4carboxylate in 250 ml. of dry methylene chloride is added in one portion. The resulting mixture is stirred for 30 minutes and then filtered through diatomaceous earth. The contents of the reaction flask and the diatomaceous earth are washed with 500 ml. of methylene chloride and combined with the preceding filtrate and then washed with 400 ml. of 5% aqueous potassium hydroxide solution, 500 ml. of 20% aqueous hydrochloric acid and twice with 400 ml. brine. The aqueous washings are back extracted with 500 ml. of methylene chloride and the extracts added to the previously washed methylene chloride filtrate, then dried over sodium sulfate and then stirred for one hour with 30 g. of silica gel. The mixture is filtered and the silica gel washed with 400 ml. 1:1 vol. ethyl acetate/methylene chloride. The combined filtrates are evaporated to dryness under reduced pressure and the resulting residue (26 g.) is recrystallized from ethyl ether/methylene chloride affording 21.4 g. of benzhydryl 3-formyl-7β-(thiophen-2-yl-acetamido)-ceph-2-em-4-carboxylate.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | benzhydryl 3-hydroxymethyl-7β-(thiophen-2-yl-acetamido)-ceph-2-em-4carboxylate | OCC1=CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C27H24N2O5S2
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Benzhydryl 3-formyl-7β-(thiophen-2-yl-acetamido)-ceph-2-em-4-carboxylate | C(=O)C1=CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C27H22N2O5S2
